US06469039B1
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-(1-methylcyclopent-1-yl)-ketone-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-(1-methylcyclopent-1-yl)-ketone, ethanolic hydrochloric acid, ethanol and ammonium carbonate.

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-(1-methylcyclopent-1-yl)-ketone | CN1C(=NC2=C1C=CC(=C2)C2C(CCC2)(C)C(=O)C2(C(CCC2)C2=CC1=C(N(C(=N1)CNC1=CC=C(C=C1)C#N)C)C=C2)C)CNC2=CC=C(C=C2)C#N | C45H46N8O
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-(1-methylcyclopent-1-yl)-ketone-hydrochloride | Cl.CN1C(=NC2=C1C=CC(=C2)C2C(CCC2)(C)C(=O)C2(C(CCC2)C2=CC1=C(N(C(=N1)CNC1=CC=C(C=C1)C(N)=N)C)C=C2)C)CNC2=CC=C(C=C2)C(N)=N | InChI=1S/C45H52N10O.ClH/c1-44(21-5-7-33(44)29-13-19-37-35(23-29)52-39(54(37)3)25-50-31-15-9-27(10-16-31)41(46)47)43(56)45(2)22-6-8-34(45)30-14-20-38-36(24-30)53-40(55(38)4)26-51-32-17-11-28(12-18-32)42(48)49;/h9-20,23-24,33-34,50-51H,5-8,21-22,25-26H2,1-4H3,(H3,46,47)(H3,48,49);1H
